US06403610B1
1.2 cm3 of 1-bromo-2-chloroethane were run, at a temperature in the region of 20° C., into a stirred solution of 1.47 g of 2-mercaptothiazole and 1.95 g of potassium carbonate in 12.5 cm3 of dimethylformamide. The mixture was subsequently stirred for 2 hours at a temperature in the region of 20° C. The insoluble material was filtered off and washed with 2 times 5 cm3 of dimethylformamide. The filtrate was run onto a mixture of 50 g of crushed ice and 50 cm3 of distilled water, 50 cm3 of ethyl ether were then added and the mixture was stirred and then separated by settling. The aqueous phase was separated by settling and then extracted with 2 times 25 cm3 of ethyl ether. The combined ethereal phases were washed with 2 times 25 cm3 of water and then dried over magnesium sulfate. After filtering through paper, the organic solution was evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 2.11 g of 2-(2-chloroethylthio)thiazole were obtained in the form of a mobile oil with a yellow color.

reactant | 1-bromo-2-chloroethane | 1.2 cm3 | BrCCCl | C2H4BrCl
reactant | 2-mercaptothiazole | 1.47 g | SC=1SC=CN1 | C3H3NS2
reactant | potassium carbonate | 1.95 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 12.5 cm3 | CN(C=O)C | C3H7NO
product | 2-(2-chloroethylthio)thiazole | 2.11 g | ClCCSC=1SC=CN1 | C5H6ClNS2
